US09290485B2
b) N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-(4-methoxybenzyl)-1H-pyrazole-4-carboxamide
To a mixture of tert-butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate (80.0 mg, 0.318 mmol) in DCM (3 ml) were added HOAt (87.0 mg, 0.637 mmol), collidine (0.127 ml, 0.955 mmol), 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxylic acid (73.9 mg, 0.318 mmol) and HATU (81.0 mg, 0.212 mmol). After stirring for 2 h at rt, all volatiles were removed in vacuo. The crude intermediate was purified by column chromatography (CombiFlash Companion, 12 g SiO2, TBME to TBME+10% MeOH), dissolved in DCM (3 ml) and TFA (1 ml), kept for 14 h at rt, and concentrated. Purification by column chromatography (CombiFlash Rf, 13 g RediSep Rf C18, MeCN:water 5:95+0.1% TFA to MeCN) afforded the title compound as. 1H-NMR (DMSO-d6, 400 MHz): 2.37 (s, 3H), 3.73 (s, 3H), 4.27 (d, 2H), 5.24 (s, 1H), 6.64 (s, 1H), 6.91 (d, 2H), 7.23 (d, 2H), 7.70 (br, s, 2H), 7.84 (s, 1H), 8.14-8.19 (m, 2H), 13.59 (s, 1H). LCMS RtK=0.71 min, [M+H]+=366.4.

reactant | tert-butyl 5-(aminomethyl)-4,6-dimethylpyridin-2-ylcarbamate | 0.318 mmol, 80.0 mg | NCC=1C(=CC(=NC1C)NC(OC(C)(C)C)=O)C | C13H21N3O2
reactant | HOAt | 0.637 mmol, 87.0 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | collidine | 0.955 mmol, 0.127 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | 1-(4-methoxybenzyl)-1H-pyrazole-4-carboxylic acid | 0.318 mmol, 73.9 mg | COC1=CC=C(CN2N=CC(=C2)C(=O)O)C=C1 | C12H12N2O3
reactant | HATU | 0.212 mmol, 81.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-((6-amino-2,4-dimethylpyridin-3-yl)methyl)-1-(4-methoxybenzyl)-1H-pyrazole-4-carboxamide | NC1=CC(=C(C(=N1)C)CNC(=O)C=1C=NN(C1)CC1=CC=C(C=C1)OC)C | C20H23N5O2
